US08212041B2
A 0.5-2 mL microwave vial was charged with 1-(4-(3-(aminomethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-2-fluorophenyl)pyrrolidin-2-one (0.0792 g, 0.243 mmol), 8-chloro-3-methoxy-1,5-naphthyridine (0.0590 g, 0.303 mmol), and butan-2-ol (1.00 ml, 0.243 mmol), sealed, then placed in a Personal Chemistry Microwave for 4 hours at 120° C. The mixture was concentrated, then triturated with MeOH to give 1-(2-fluoro-4-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)pyrrolidin-2-one as the hydrochloric salt.

reactant | 1-(4-(3-(aminomethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-2-fluorophenyl)pyrrolidin-2-one | 0.243 mmol, 0.0792 g | NCC1=NN=C2N1N=C(C=C2)C2=CC(=C(C=C2)N2C(CCC2)=O)F | C16H15FN6O
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 0.303 mmol, 0.0590 g | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | butan-2-ol | 0.243 mmol, 1.00 ml | CC(CC)O | C4H10O
product | 1-(2-fluoro-4-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)pyrrolidin-2-one | FC1=C(C=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CNC2=CC=NC1=CC(=CN=C21)OC)N2C(CCC2)=O | C25H21FN8O2
